US04547452
To a solution composed of 32.7 g (0.1 mol) of dodecylbenzenesulfonic acid, 80 ml of ethyl acetate, and 12 ml of dimethylformamide (DMF) was added dropwise 12.4 ml (0.15 mol) of phosphorus oxychloride with stirring over a period of 10 minutes and then while heating the mixture so as to maintain the temperature thereof at 40° C., the reaction was performed for 60 minutes. After the reaction was over, the reaction mixture was cooled to 5° to 10° C. and then a solution composed of 16 g of sodium chloride and 160 ml of water was added dropwise to the reaction mixture over a period of 15 minutes. After removing an aqueous layer, an ethyl acetate layer thus formed was washed once with 100 ml of an aqueous 10% sodium chloride solution. The ethyl acetate solution of dodecylbenzenesulfonyl chloride obtained was used for the subsequent reaction as it was.

reactant | dodecylbenzenesulfonic acid | 0.1 mol, 32.7 g | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
reactant | phosphorus oxychloride | 0.15 mol, 12.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium chloride | 16 g | [Cl-].[Na+]
solvent | water | 160 ml | O | H2O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | dodecylbenzenesulfonyl chloride | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)Cl | C18H29ClO2S
